US08017601B2
5-iodo-2-methoxybenzamide
5-iodo-2-methoxybenzoic acid (1.01 g, 3.63 mmol) was dissolved in DMF (8.0 ml) and EDC (0.86 g, 4.5 mmol), HOAt (0.59 g, 4.3 mmol), ammonium chloride (0.79 g, 14.8 mmol), and iPr2NEt (2.0 ml, 11.5 mmol) were added. The reaction was stirred at room temperature under nitrogen overnight, and then poured into water (40 ml), resulting in the formation of a precipitate. The suspension was filtered and the solid was collected. The filtrate was extracted with EtOAc (3×25 ml), and the organic extracts were combined, dried over sodium sulfate, filtered, combined with the filtered solid, and concentrated. The crude was dissolved in DMF (ca. 10 ml) and poured into water (60 ml). This was then cooled in an ice water bath, and filtered, and the solid was collected and dried in vacuo to give title compound (0.38 g, 38%). MS (ESI pos. ion) m/z: 278 (M+H). Calc'd Exact Mass for C8H8INO2: 277.

reactant | 5-iodo-2-methoxybenzoic acid | 3.63 mmol, 1.01 g | IC=1C=CC(=C(C(=O)O)C1)OC | C8H7IO3
reactant | EDC | 4.5 mmol, 0.86 g
reactant | HOAt | 4.3 mmol, 0.59 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | ammonium chloride | 14.8 mmol, 0.79 g | [Cl-].[NH4+]
reactant | iPr2NEt | 11.5 mmol, 2.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 8.0 ml | CN(C)C=O | C3H7NO
solvent | water | 40 ml | O | H2O
product | 5-iodo-2-methoxybenzamide | 0.38 g, 38% | IC=1C=CC(=C(C(=O)N)C1)OC | C8H8INO2
